US03978129
6-Bromo-N,N-dimethyl-3-phenyl-2-hexenylamine Hydrobromide.
A solution of 30 g. (0.14 mole) of 1-cyclopropyl-3-dimethylamino-1-phenyl-1-propanol in 200 ml. of 48% hydrogen bromide was heated at 100°C. for several minutes and then concentrated on a rotating evaporator. The residual oil was dissolved in isopropanol and treated with ether to give an amorphous solid. Recrystallization of the solid from ethyl acetate gave a nearly pure isomer which after additional recrystallization from isopropylmethyl ketone melted at 128°-130°C. The yield was 2.6 g. (5.2%). The nuclear magnetic resonance spectrum showed the double bond to be in position 2 of the hexenylamine.

reactant | 1-cyclopropyl-3-dimethylamino-1-phenyl-1-propanol | 0.14 mole | C1(CC1)C(CCN(C)C)(O)C1=CC=CC=C1 | C14H21NO
reactant | hydrogen bromide | Br | BrH
product | 6-Bromo-N,N-dimethyl-3-phenyl-2-hexenylamine Hydrobromide | Br.BrCCCC(=CCN(C)C)C1=CC=CC=C1 | InChI=1S/C14H20BrN.BrH/c1-16(2)12-10-14(9-6-11-15)13-7-4-3-5-8-13;/h3-5,7-8,10H,6,9,11-12H2,1-2H3;1H
